US06384080B1
A mixture of 2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzoic acid (120 mg), [2-(trifluoromethyl)phenyl]ethylamine hydrochloride (111 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (86.4 mg) and 1-hydroxybenzotriazole (81.0 mg) in anhydrous dimethylformamide (3 mL) was stirred for 18 hours at ambient temperature. The mixture was partitioned between water and ethyl acetate. The separated organic layer was washed with IN-hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine, successively, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by a preparative silica gel thin layer chromatography with a mixture of hexane and ethyl acetate (2:1). The obtained product was recrystallized from a mixture of petroleum ether and diethyl ether to give 2-(cis-4-hydroxycyclohexylamino)-5-nitro-N-{[2-(trifluoromethyl)phenyl]ethyl}benzamide (157 mg) as yellow powders.

reactant | 2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzoic acid | 120 mg | O[C@H]1CC[C@H](CC1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H16N2O5
reactant | [2-(trifluoromethyl)phenyl]ethylamine hydrochloride | 111 mg | Cl.FC(C1=C(C=CC=C1)CCN)(F)F
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 86.4 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 81.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-(cis-4-hydroxycyclohexylamino)-5-nitro-N-{[2-(trifluoromethyl)phenyl]ethyl}benzamide | 157 mg | O[C@H]1CC[C@H](CC1)NC1=C(C(=O)NCCC2=C(C=CC=C2)C(F)(F)F)C=C(C=C1)[N+](=O)[O-] | C22H24F3N3O4
